US08957203B2
Step 2: Preparation of 1-(methoxymethyl)cyclopropane-1-sulfonamide
To tert-butyl (1-(methoxymethyl)cyclopropyl)sulfonylcarbamate (2.2 g, 8.29 mmol) was added HCl in 1,4-Dioxane (20 ml, 4M solution) at room temperature. The reaction mass was stirred for 2 hr. The reaction mass was evaporated under reduced pressure to get desired compound (1.2 g, 88%) as white solid. 1H NMR (400 MHz, DMSO): δ ppm 6.68 (br, s, 2H), 3.62 (s, 2H), 3.27 (s, 3H), 1.22-1.09 (m, 2H), 0.96-0.91 (m, 2H).

reactant | tert-butyl (1-(methoxymethyl)cyclopropyl)sulfonylcarbamate | 8.29 mmol, 2.2 g | COCC1(CC1)S(=O)(=O)NC(OC(C)(C)C)=O | C10H19NO5S
reactant | HCl | Cl | ClH
solvent | 1,4-Dioxane | 4M, 20 ml | O1CCOCC1 | C4H8O2
product | 1-(methoxymethyl)cyclopropane-1-sulfonamide | 1.2 g, 88% | COCC1(CC1)S(=O)(=O)N | C5H11NO3S
